US04897406
A mixture of 1.46 g (0.011 mol) of rhodanine, 2.34 g (0.01 mol) of 1-(3,4-dimethoxyphenyl)-1-hexen-3-one, 0.77 g (0.01 mol) of ammonium acetate and 20 ml of toluene was heated under reflux for 8 hours. After cooling, 100 of water were added to the reaction mixture, and the layers were then extracted with chloroform (80 ml×3). A chloroform layer was washed twice with water and once with a saturated aqueous solution of sodium chloride. The chloroform layer was dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure to give a reddish brown oily substance. The oily substance was purified by silica gel column chromatography (eluent, chloroform:methanol=150:1) to give 0.03 g of the isomer A of the desired 5-(α-propyl-3,4-dimethoxycinnamylidene)-4-oxo-2-thioxothiazolidine from the first eluate and 0.2 g of the isomer B from the subsequent eluate.

reactant | rhodanine | 0.011 mol, 1.46 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | 1-(3,4-dimethoxyphenyl)-1-hexen-3-one | 0.01 mol, 2.34 g | COC=1C=C(C=CC1OC)C=CC(CCC)=O | C14H18O3
reactant | ammonium acetate | 0.01 mol, 0.77 g | C(C)(=O)[O-].[NH4+]
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-(α-propyl-3,4-dimethoxycinnamylidene)-4-oxo-2-thioxothiazolidine | C(CC)C(C=C1C(NC(S1)=S)=O)=CC1=CC(=C(C=C1)OC)OC | C17H19NO3S2
